Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Thrombocytopenia 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of ITP and atrial fibrillation who was sent in 
from clinic for thrombocytopenia. Pt had routine labs done which 
showed a platelet count of 1. She noted easy bruising during 
mammogram last week, but has not had any bleeding of any sort 
(gums, urine, stool, etc.). No fevers or chills. She was 
referred to the ED by outpatient providers for further 
evaluation. Of note, pt has a longstanding history of ITP which 
is typically responsive, at least transiently, to steroids. She 
had a splenectomy in ___ which was not successful. She had 
Rituximab once in ___ which was not successful. She was treated 
in ___ with a course of steroids for worsening 
thrombocytopenia, with improvement to 130 (___). At that 
time, there was consideration of starting rituximab or an 
alternate therapy if steroids were not successful, but platelet 
counts improved so this was not needed. She used to take ASA 
325mg daily for anticoagulation for A-Fib (true anticoag 
deferred given ITP), but has not had this for several months 
given ongoing ITP issues.  

In the ED, initial VS were: 98.7 67 144/79 16 98% RA  
Labs were notable for: Platelets 8. Labs were otherwise normal 
aside from PTT 52.4.  
Imaging included: N/A  
Treatments received: Dexamethasone 40 mg IV  
 
On arrival to the floor, patient reports feeling well, with no 
bleeding, but some bruising. She asks if I will be initiating 
IVIG treatment.  ROS otherwise negative in remaining systems. 
 

 
Past Medical History:
Immune Thrombocytopenic Purpura  
Splenectomy
Atrial Fibrillation
Hypercholesterolemia
Osteoporosis  
Vitamin B12 deficiency  
Ovarian Cancer 
Colonic adenoma  
Hysterectomy
Oophorectomy 
appendectomy  
Tonsillectomy 
Adenoidectomy  
Hemorrhoidectomy  
 
Social History:
___
Family History:
No FHx of hematologic disease  
Brother - CAD/PVD  
Father - CAD/PVD  
Mother - ___ Hyperlipidemia; CVA  
 
Physical Exam:
ON ADMISSION:
PHYSICAL EXAM:  
Vital Signs: 98.1, 145 / 85, HR 61, RR 20, 97% RA  
General: Alert, oriented, no acute distress, pleasant  
HEENT: Sclera anicteric, MMM, oropharynx with one ecchymosis on 
right hard palate  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no resp distress  
Abdomen: Soft, non-tender, non-distended, no organomegaly  
GU: Deferred, no foley  
Ext: Warm, well perfused, 2+ pulses, no edema  
Neuro: Grossly intact, normal gait walking around the room  
Skin: Scattered ecchymoses of ___ ___ and fingers  

ON DISCHARGE: 
Physical Exam:  
Vitals- Tm: 98.7 Tc: 97.8 BP: 107-145/55-85 HR: 57-69 RR: ___ 
O2%: ___
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Ecchymoses noted on the inner and outer proximal lower 
extremity bilaterally, breasts, and distal upper extremity 
including the hands. Petechiae noted on in the oropharynx, left 
upper back, and distal right lower extremity. 
Neuro- CNs2-12 intact, ___ strength bilaterally.
 
Pertinent Results:
ON ADMISSION: 
___ 03:57PM BLOOD WBC-6.1 RBC-4.49 Hgb-14.2 Hct-43.3 MCV-96 
MCH-31.6 MCHC-32.8 RDW-13.2 RDWSD-47.5* Plt Ct-8*#
___ 03:57PM BLOOD Neuts-63.3 ___ Monos-9.3 Eos-2.9 
Baso-1.0 Im ___ AbsNeut-3.86# AbsLymp-1.42 AbsMono-0.57 
AbsEos-0.18 AbsBaso-0.06
___ 03:57PM BLOOD ___ PTT-52.4* ___
___ 03:57PM BLOOD Glucose-167* UreaN-12 Creat-0.9 Na-139 
K-4.0 Cl-103 HCO3-29 AnGap-11
___ 08:00AM BLOOD Calcium-9.6 Phos-2.8 Mg-2.0

ON DISCHARGE: 
___ 07:12AM BLOOD WBC-9.0 RBC-3.98 Hgb-12.8 Hct-37.9 MCV-95 
MCH-32.2* MCHC-33.8 RDW-13.2 RDWSD-46.3 Plt Ct-26*#
___ 07:12AM BLOOD Plt Ct-26*#
___ 07:12AM BLOOD Calcium-8.6 Phos-2.6* Mg-2.3

PERTINENT: 
___ 03:57PM BLOOD Plt Smr-RARE Plt Ct-8*#
___ 08:00AM BLOOD Plt Ct-7*
___ 07:25AM BLOOD Plt Ct-<5*
___ 07:25AM BLOOD Plt Ct-13*#
___ 07:12AM BLOOD Plt Ct-26*#
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a past medical history notable 
for immune thrombocytopenic purpura and atrial fibrillation who 
presents to ___ for evaluation of thrombocytopenia. 

#ITP with flare, presenting with recurrent thrombocytopenia: Ms. 
___ has a ___ year history of immune thrombocytopenic purpura, 
which is typically responsive to corticosteroids. On admission, 
she had a platelet count on 1 and was started on a four day 
course of dexamethesone 40 mg (___). Notably, she had 
ecchymoses on her breast, inner thighs, and left forearm, as 
well as petechiae in her oropharynx and back. Her platelet count 
increased to 8 on day 1, to 7 on day 2, to 5 on day 3, and to 13 
on day 4. Due to the slow response, hematology was consulted and 
recommended IVIG. She was treated with two dose of IVIG ___, 
___, and on day 5, her platelet count had increased to 26. We 
expect her platelet count will continue to increase after 
discharge. She will follow up with her primary hematologist a 
few days after discharge. She did not have any new bruising this 
hospitalization.

#Atrial Fibrillation: She has a long history of atrial 
fibrillation with a CHADS2Vasc score of 2. She has previously 
been on aspirin for antiplatelet therapy, but was discontinued 
on it a few weeks prior to admission. We did not continue it on 
this hospitalization due to her thrombocytopenia nor did we 
restart it on admission. She is rate controlled with atenolol 25 
mg PO daily and rhythm controlled with amiodarone 100 mg PO 
daily.

#Elevated PTT: Her PTT was found to be elevated to 52. We are 
not sure of the etiology, but her PTT has been elevated in prior 
labs from earlier this year. She did not have any new bleeding 
on this hospitalization.

Chronic Issues:
#Hyperlipidemia: We continued home pravastatin 40 mg PO
#Osteoporosis: We held her home alendronate, but it was 
continued on discharge.

Transitional Issues: 
- F/up CBC on ___ in an ___ lab. Dr. ___ will follow 
the results
- Elevated PTT on our labs, which seems unchanged from prior 
results. Recommend workup for causes of elevated PTT, if it has 
not already been investigated.
- Please do not take aspirin until your follow up with your 
outpatient hematologist Dr. ___

#Code: FULL (Confirmed with patient ___ 
#Communication: ___, ___   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QTHUR 
2. Amiodarone 100 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QTHUR  
2.  Amiodarone 100 mg PO DAILY  
3.  Atenolol 25 mg PO DAILY  
4.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Idiopathic thrombocytopenic purpura

Secondary
H/O Atrial Fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ due to thrombocytopenia with a 
platelet count of 1, which represents a flare of idiopathic 
thrombocytopenic purpura. 

We treated ___ with glucocorticoids and intravenous immune 
globulin (IVIG) and your platelet count improved to 26. We 
expect that it will continue to improve. 

We were in close communication with your outpatient hematology 
team and ___ should continue to follow with them. ___ were seen 
by Dr. ___ as an inpatient. ___ should have your blood drawn 
on ___ at your local ___ lab, and ___ will see Dr. 
___ as an outpatient next week for further follow-up. Please 
do not take Aspirin until ___ see Dr. ___ in follow-up. 

It was a pleasure to take care of ___. We wish ___ all the best.

Sincerely,
Your ___ team
 
Followup Instructions:
___